US06624158B2
N′-({[(3aS,4S,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}oxy)propanimidamide
Oxalyl chloride (4 ml, 46 mmol) was added to a solution of (3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid (Justus Liebigs Ann. Chem., 1974, 11, 1856) (5 g, 23 mmol) in dichloromethane (100 ml). The solution was stirred at room temperature for two hours and then the solvent was evaporated under reduced pressure to yield a white solid. This was dissolved in ethyl acetate (80 ml) and N′-hydroxypropanimidamide (2.63 g, 30 mmol) was added followed by N-ethyldiisopropylamine (8.12 ml, 46 mmol). The reaction mixture was stirred at room temperature for 48 hours and then washed with saturated sodium hydrogencarbonate solution (50 ml) and brine (50 ml). The organic layer was separated, dried (anhydrous magnesium sulphate) and evaporated under reduced pressure to give the product as a dark yellow oil (5.85 g).

reactant | Oxalyl chloride | 46 mmol, 4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxylic acid | 23 mmol, 5 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C9H14O6
reactant | N′-hydroxypropanimidamide | 30 mmol, 2.63 g | ON=C(CC)N | C3H8N2O
reactant | N-ethyldiisopropylamine | 46 mmol, 8.12 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | N′-({[(3aS,4S,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}oxy)propanimidamide | 5.85 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)ON=C(CC)N | C12H20N2O6
